US08242129B2
3-(6-(4-Hydroxy-3-methylphenyl)-2-oxo-2,3-dihydropyrimidin-4-yl)benzoic acid
(E)-3-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid (15.0 g, 53.0 mmol) and urea (16.0 g, 0.27 mol) was suspended in 200 mL of 4N HCl solution in dioxane, and the reaction mixture was heated to reflux overnight, then cooled to room temperature. The resulted mixture was concentrated in vacuo to remove dioxane. The residues were suspended in 150 mL of 2-propanol, filtered and washed with 50 mL of 2-propanol, dried in the air. 8.1 g (48%) of a yellowish powder was obtained. 1H NMR (400 MHz, DMSO-d6): δ 10.40 (s, 1H), 8.60 (s, 1H), 8.35 (m, 1H), 8.18 (m, 1H), 8.00 (s, 1H), 7.90 (m, 1H), 7.65 (m, 1H), 7.55 (m, 1H), 6.95 (m, 1H), 2.18 (s, 3H). MS (EI): 323 (MH+).

reactant | (E)-3-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid | 53.0 mmol, 15.0 g | OC1=C(C=C(C=C1)C(/C=C/C=1C=C(C(=O)O)C=CC1)=O)C | C17H14O4
reactant | urea | 0.27 mol, 16.0 g | NC(=O)N | CH4N2O
solvent | HCl | 4N, 200 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(6-(4-Hydroxy-3-methylphenyl)-2-oxo-2,3-dihydropyrimidin-4-yl)benzoic acid | 8.1 g, 48% | OC1=C(C=C(C=C1)C=1C=C(NC(N1)=O)C=1C=C(C(=O)O)C=CC1)C | C18H14N2O4
